US08309580B2
(1) ethyl 3-[({4-[(cyclohexyl{2-[(methylsulfinyl)methyl]-5-phenylfuran-3-yl}methyl)amino]phenyl}carbonyl)amino]propanoate
Ethyl 3-[({4-[(cyclohexyl{2-[(methylsulfanyl)methyl]-5-phenylfuran-3-yl}methyl)amino]phenyl}carbonyl)amino]propanoate (267 mg) was dissolved in methanol (9 mL) and water (1 mL), OXONE (277 mg) was added, and the mixture was stirred at room temperature for 1 hr. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography (40% ethyl acetate/hexane to 100% ethyl acetate/hexane) to give the title compound (196 mg, 79%) as an amorphous compound.

reactant | Ethyl 3-[({4-[(cyclohexyl{2-[(methylsulfanyl)methyl]-5-phenylfuran-3-yl}methyl)amino]phenyl}carbonyl)amino]propanoate | 267 mg | C1(CCCCC1)C(C1=C(OC(=C1)C1=CC=CC=C1)CSC)NC1=CC=C(C=C1)C(=O)NCCC(=O)OCC | C31H38N2O4S
reactant | OXONE | 277 mg | OOS(=O)[O-].[K+]
solvent | methanol | 9 mL | CO | CH4O
solvent | water | 1 mL | O | H2O
product | ethyl 3-[({4-[(cyclohexyl{2-[(methylsulfinyl)methyl]-5-phenylfuran-3-yl}methyl)amino]phenyl}carbonyl)amino]propanoate | 196 mg, 79% | C1(CCCCC1)C(C1=C(OC(=C1)C1=CC=CC=C1)CS(=O)C)NC1=CC=C(C=C1)C(=O)NCCC(=O)OCC | C31H38N2O5S
